US09303000B2
Synthesis of 2-isopropoxy-6-(trifluoromethyl)isonicotinonitrile
In a 250-ml capacity 3 neck flask (1.39 g) NaH suspended in 100 ml THF. At 0° C. IPA (4.36 g) in 20 ml THF added in this reaction flask. Allow it to stir at RT for 3 h. At 0° C. 2-chloro-6-trifluoromethylisonicotinonitrile (10 g) in 80 mL THF added in the flask in dropwise manner. Maintained 0° C. temperature for 30 min. Completion of reaction conformed by TLC. Reaction mixture was dumped in ice water. Extract compound in ethyl acetate. Organic layer was washed by water two times & dried over Na2SO4, filtered, and concentrated by rotary evaporation (40° C., 20 mmHg) to afford 8 g of yellow oil. The resulting crude compound forwarded for next step.

reactant | NaH | 1.39 g | [H-].[Na+]
reactant | IPA | 4.36 g | CC(C)O | C3H8O
reactant | 2-chloro-6-trifluoromethylisonicotinonitrile | 10 g | ClC=1C=C(C#N)C=C(N1)C(F)(F)F | C7H2ClF3N2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-isopropoxy-6-(trifluoromethyl)isonicotinonitrile | 8 g | C(C)(C)OC=1C=C(C#N)C=C(N1)C(F)(F)F | C10H9F3N2O
